US05726165
(R)-2-(3,4-Dihydroxyphenyl)propylcarbamic acid, t-butyl ester
A solution of (R)-3-(3,4-dihydroxyphenyl)-2-propylamine hydrobromide (480 mg, 1.9 mMol) in dimethylformamide (5 ml) containing triethylamine (3 equiv, 586 mg, 5.7 mMol) was stirred at 5° C. under an argon atmosphere for 15 minutes. Di-t-butyl dicarbonate (414 mg, 1.9 mMol) was added and the reaction mixture was stirred at 5° C. for 1 hour and then at ambient temperature for 1 hour. The solvent was evaporated. Ethyl acetate (100 ml) and water (50 ml) were added and the organic layer was separated, washed with water (50 ml) and brine (50 ml), dried (MgSO4) and evaporated. Purification of the residue by chromatography on silica gel eluting with 25% ethyl acetate in n-hexane gave the title compound, m.p. 116°-118° C.;

reactant | (R)-3-(3,4-dihydroxyphenyl)-2-propylamine hydrobromide | 1.9 mMol, 480 mg | Br.OC=1C=C(C=CC1O)C[C@@H](C)N
reactant | triethylamine | 5.7 mMol, 586 mg, 3 equiv | C(C)N(CC)CC | C6H15N
reactant | Di-t-butyl dicarbonate | 1.9 mMol, 414 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (R)-2-(3,4-Dihydroxyphenyl)propylcarbamic acid, t-butyl ester | OC=1C=C(C=CC1O)[C@H](CNC(OC(C)(C)C)=O)C | C14H21NO4
